US07202363B2
N,N-Dimethylformamide dimethyl acetal (0.116 mL, 0.87 mmol) was added to a solution of N-(4-{4-amino-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.156 g, 0.257 mmol) in N,N-dimethylformamide (6 mL). The solution was stirred at 95° C. for 9 h, then was cooled to ambient temperature, and the mixture was concentrated. Partial purification of the residue by flash column chromatography on silica gel which had been deactivated with triethylamine (10% by volume of silica gel used), using dichloromethane as the mobile phase afforded crude N-(4-{4-{[(dimethylamino)methylene]amino}-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide as a yellow foam (0.16 g, 0.24 mmol): MS: (MH)+ 663.

reactant | N,N-Dimethylformamide dimethyl acetal | 0.87 mmol, 0.116 mL | COC(N(C)C)OC | C5H13NO2
reactant | N-(4-{4-amino-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.257 mmol, 0.156 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C37H29N5O2S
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-(4-{4-{[(dimethylamino)methylene]amino}-7-[(diphenylmethylene)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.24 mmol, 0.16 g | CN(C)C=NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C40H34N6O2S
